US06277987B1
A solution of the title G compound, (2R)-(t-butyloxycarbonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester (4.83 g, 11.55 mmol) in 18 mL of dichloromethane is treated with trifluoroacetic acid (TFA; 6.00 mL, 78 mmol) at 0° C. After stirring for 1 h at this temperature, the solution is concentrated under reduced pressure without heating, and the residue is partitioned between 100 mL of ethyl acetate and 50 mL of 1M aqueous NaHCO3. The organic phase is dried over anhydrous Na2SO4 and concentrated. Chomatography on silica gel (eluant; 1/1—ethyl acetate/hexane) affords 2.58 g (70%) of (2R)-amino-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester as a colorless foam: NMR(CDCl3) 1.46 (s, 9H), 1.80-2.06 (m, 4H), 3.73 (t, 2H, J=6.2), 3.97 (t, 1H, J=6.3), 7.68-7.71 (m, 2H), 7.82-7.85 (m, 2H).

reactant | (2R)-(t-butyloxycarbonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester | 11.55 mmol, 4.83 g | C(C)(C)(C)OC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NC(=O)OC(C)(C)C)=O | C22H30N2O6
reactant | trifluoroacetic acid | 78 mmol, 6.00 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | (2R)-amino-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester | 2.58 g, 70% | C(C)(C)(C)OC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)N)=O | C17H22N2O4
